US08357711B2
tert-Butyl 6-[(cyclopropylmethoxy)methyl]-6-hydroxy-1,4-oxazepane-4-carboxylate
70-75% m-Chlorobenzenecarboperoxoic acid (145 g, 0.59 mol, 1.2 eq) was added in portions to a stirred solution of tert-butyl 6-(hydroxymethyl)-1,4-oxazepane-4-carboxylate (Preparation 79, 107 g, 0.5 mol, 1 eq) in DCM (1.0 L) that caused heating of the mixture. The reaction mixture was stirred for 24 h at room temperature, then diluted with hexane (500 mL) and filtered. The separated precipitate was washed on a filter with DCM/hexane mixture, and the combined filtrate was washed with aqueous potassium carbonate, dried over sodium sulfate, and evaporated. The residue was vacuum-dried to give title compound (117 g, 0.51 mol, 96%).

reactant | m-Chlorobenzenecarboperoxoic acid | 0.59 mol, 145 g, 1.2 eq | ClC=1C=C(C=CC1)C(=O)OO | C7H5ClO3
reactant | tert-butyl 6-(hydroxymethyl)-1,4-oxazepane-4-carboxylate | 0.5 mol, 107 g, 1 eq | OCC1CN(CCOC1)C(=O)OC(C)(C)C | C11H21NO4
reactant | hexane | 500 mL | CCCCCC | C6H14
solvent | DCM | 1.0 L | C(Cl)Cl | CH2Cl2
product | tert-Butyl 6-[(cyclopropylmethoxy)methyl]-6-hydroxy-1,4-oxazepane-4-carboxylate | 0.51 mol, 117 g, 96% | C1(CC1)COCC1(CN(CCOC1)C(=O)OC(C)(C)C)O | C15H27NO5
